US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-8-hydroxymethyl-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone
Lithium aluminum hydride (1 mol/L in tetrahydrofuran, 0.5 mL) is added to a solution of cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid methyl ester (150 mg) in tetrahydrofuran (6 mL) cooled to −10° C. The resulting solution is stirred for 2 h while warming to ca. −3° C. in the cooling bath. Little water is added carefully and the resulting mixture is filtered over Celite. The filtrate is diluted with ethyl acetate and dried (MgSO4). The solvent is evaporated and the residue is triturated with ethyl acetate and dried to give the title compound as a solid. Yield: 56 mg (40% of theory); LC (method 1): tR=2.03 min; Mass spectrum (ESI+): m/z=362 [M+H]+.

reactant | Lithium aluminum hydride | 1 mol/L, 0.5 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid methyl ester | 150 mg | COC(=O)C1=CC2=C([C@H]3CCCN([C@H]3CC2)C(=O)C2=CC3=C(NC=N3)C=C2)C=C1 | C23H23N3O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (1H-Benzoimidazol-5-yl)-(cis-8-hydroxymethyl-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=C(C=C3)CO | C22H23N3O2
